US08557983B2
tert-butyl 1-(tetrahydro-2H-pyran-4-yl)piperidin-4-ylcarbamate
A mixture of tert-butyl piperidin-4-ylcarbamate (45 g) and dihydro-2H-pyran-4(3H)-one (24.74 g) in dichloromethane (1000 mL) was treated with sodium triacetoxyborohydride (61.9 g), stirred at room temperature for 16 hours, washed with 1M sodium hydroxide and dried with anhydrous sodium sulfate, filtered and concentrated. The concentrate was flash column chromatographed on silica gel with 10-20% methanol/dichloromethane.

reactant | tert-butyl piperidin-4-ylcarbamate | 45 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | dihydro-2H-pyran-4(3H)-one | 24.74 g | O1CCC(CC1)=O | C5H8O2
reactant | sodium triacetoxyborohydride | 61.9 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
product | tert-butyl 1-(tetrahydro-2H-pyran-4-yl)piperidin-4-ylcarbamate | O1CCC(CC1)N1CCC(CC1)NC(OC(C)(C)C)=O | C15H28N2O3
